US04271164
A stirred suspension of 3.0 g of 6-(2,6-dichlorophenyl)pyrido[2,3-d]pyrimidin-7-amine in 100 ml of dry 1,2-dichloroethane is cooled to 0° C. and treated with 1.2 g of methanesulfonyl chloride followed by dropwise addition of 1.0 g of triethylamine. Stirring is continued while the mixture is allowed to warm to room temperature during 4 hours. If the reaction is not complete as judged by thin layer chromatography on silica gel, the reaction mixture is cooled to 0° C. and treated with an additional 1.2 g of methanesulfonyl chloride followed by 1.0 g of triethylamine. The mixture is stirred overnight at room temperature, filtered from insoluble material and chromatographed on 150 g of silica gel to separate the crude product. Recrystallization from toluene gives pure N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]methanesulfonamide, mp 212°-213° C.

reactant | 6-(2,6-dichlorophenyl)pyrido[2,3-d]pyrimidin-7-amine | 3.0 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=CN=C2)N=C1N | C13H8Cl2N4
reactant | methanesulfonyl chloride | 1.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]methanesulfonamide | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1NS(=O)(=O)C | C15H12Cl2N4O2S
